US08877782B2
f) 6-(3-Pyridin-2-yl-isoxazol-4-ylmethoxy)-nicotinic acid
As described for example 358b, 6-(3-pyridin-2-yl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (510 mg, 1.6 mmol), instead of 3-pyridin-2-yl-isoxazole-4-carboxylic acid ethyl ester, was converted to the title compound (458 mg, 94%) which was obtained as a white solid. MS: m/e=296.5 [M−H]−.

reactant | 6-(3-pyridin-2-yl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 1.6 mmol, 510 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1)C1=NC=CC=C1)=O | C16H13N3O4
reactant | 3-pyridin-2-yl-isoxazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NOC1)C1=NC=CC=C1 | C11H10N2O3
product | 6-(3-Pyridin-2-yl-isoxazol-4-ylmethoxy)-nicotinic acid | 458 mg, 94% | N1=C(C=CC=C1)C1=NOC=C1COC1=NC=C(C(=O)O)C=C1 | C15H11N3O4
